US04166132
A. 1,3-Di(n-hexadecyloxy)-2-(2-cyanoethylamino)propane
A mixture of 1,3-di(n-hexadecyloxy)-2-aminopropane (500 mg., 0.93 mmoles), acrylonitrile (75 ml.) and 2 wt. % aqueous sodium hydroxide solution (75 ml.) was heated to 60° C. Tetrabutyl ammonium hydroxide (1 ml. of 40 wt. % aqueous solution) was then added and the resulting mixture stirred for 15 minutes at 90° C. The reaction mixture was then cooled, causing precipitation of solids, which were isolated by filtration and found (TLC) to contain a large quantity of unreacted starting material. Using fresh acrylonitrile and aqueous sodium hydroxide solution in each cycle, the solids were treated two more times by the above procedure. The third cycle solid product was purified by silica gel chromatography (elution with toluene:ethyl acetate) [200 mg., 36% yield, m.p. 45°-46° C., ir (CHCl3) 2250 cm-1, n.m.r. (CDCl3) δ 3.07 (t, 2, --NHCH2CH2CN) and 2.53 (t, 2, --NHCH2CH2CN)].

reactant | 1,3-di(n-hexadecyloxy)-2-aminopropane | 0.93 mmoles, 500 mg | C(CCCCCCCCCCCCCCC)OCC(COCCCCCCCCCCCCCCCC)N | C35H73NO2
reactant | acrylonitrile | 75 ml | C(C=C)#N | C3H3N
reactant | sodium hydroxide | 75 ml | [OH-].[Na+]
reactant | Tetrabutyl ammonium hydroxide | 1 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1,3-Di(n-hexadecyloxy)-2-(2-cyanoethylamino)propane | 36% yield | C(CCCCCCCCCCCCCCC)OCC(COCCCCCCCCCCCCCCCC)NCCC#N | C38H76N2O2
